US09388172B2
In a 5 mL round-bottomed flask, N-(2-(4-chlorophenyl)-2-oxoethyl)-4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanamide (30 mg, 56.1 μmol) and POCl3 (51.6 mg, 336 μmol) were combined with toluene (1 ml) to give a colorless solution. The reaction mixture was heated to 100° C. and stirred for 4 h. The reaction mixture was diluted with ethyl acetate (30 ml), poured into ice-water and made basic with saturated solution of Na2CO3. The organic layer was separated and washed with brine and H2O, dried over MgSO4, filtered and concentrated in vacuo to give an oil. The resultant oil was purified by flash chromatography (silica gel, 12 g, 0% to 50% ethyl acetate in hexane gradient) to afford 1-{2-[5-(4-chloro-phenyl)-oxazol-2-ylmethyl]-3,3,3-trifluoro-propyl}-3-(3-trifluoromethyl-phenyl)-piperidine as an oil. It was dissolved in Et2O/Hexane, treated with 4N HCl in dioxane (0.1 ml) and concentrated in vacuo to afford 23 mg (76%) of 1-{2-[5-(4-chloro-phenyl)-oxazol-2-ylmethyl]-3,3,3-trifluoro-propyl}-3-(3-trifluoromethyl-phenyl)-piperidine hydrochloride as a white solid. MH+=517.

reactant | N-(2-(4-chlorophenyl)-2-oxoethyl)-4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanamide | 56.1 μmol, 30 mg | ClC1=CC=C(C=C1)C(CNC(CC(C(F)(F)F)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)=O)=O | C25H25ClF6N2O2
reactant | POCl3 | 336 μmol, 51.6 mg | O=P(Cl)(Cl)Cl | Cl3OP
reactant | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-{2-[5-(4-chloro-phenyl)-oxazol-2-ylmethyl]-3,3,3-trifluoro-propyl}-3-(3-trifluoromethyl-phenyl)-piperidine | ClC1=CC=C(C=C1)C1=CN=C(O1)CC(CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)C(F)(F)F | C25H23ClF6N2O
